US07199124B2
N-cyclopentyl-4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]2-pyridylamine
A mixture of 2-ethyl-5-(2-fluoro-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazole (0.48 g, 1.6 mmol) and cyclopentylamine (1.6 mL, 16 mmol) was heated under reflux for 14 hrs. The reaction mixture was cooled to room temperature, saturated aqueous sodium hydrogen carbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The obtained crude crystals were recrystallized from ethyl acetate to give the title compound (0.19 g, yield 33%).

reactant | 2-ethyl-5-(2-fluoro-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazole | 1.6 mmol, 0.48 g | C(C)C=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)F | C17H15FN2S
reactant | cyclopentylamine | 16 mmol, 1.6 mL | C1(CCCC1)N | C5H11N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-cyclopentyl-4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]2-pyridylamine | 0.19 g, yield 33% | C1(CCCC1)NC1=NC=CC(=C1)C1=C(N=C(S1)CC)C1=CC(=CC=C1)C | C22H25N3S
